US04741760
(a) Production of 5-methylbarbituric acid
46 g (2 mols) of sodium are dissolved in 1 liter of absolute ethanol in a 5-liter flask. To this solution are firstly added 348 g (2 mols) of methyl malonic acid methyl ester; and there is then added dropwise at 70° C. with stirring, within about 5 minutes, a solution of 120 g (2 mols) of urea in 1 liter of absolute ethanol. There is formed a thin suspension, which is diluted with 3.5 liters of ethanol, refluxed for 16 hours and afterwards cooled. There are subsequently added 2 liters of water and, for clearing, a filtering auxiliary (HiFlo) is introduced, and the suspension is filtered. Concentrated hydrochloric acid is then added until a Congo blue colour is indicated, and the mixture is left to stand for several hours in a cool place. A fine white crystalline precipitate is formed, which is filtered and dried. The mother liquor is concentrated by evaporation, diluted with water, and the precipitate is likewise filtered and dried. The crude yield is 263 g of material, which melts at 200°-215° C. After recrystallisation from water, there remain 144 g of white crystals (58% of theory), which melt at 203°-204° C.

reactant | sodium | 2 mols, 46 g | [Na] | Na
reactant | methyl malonic acid methyl ester | 2 mols, 348 g | COC(C(C(=O)O)C)=O | C5H8O4
reactant | urea | 2 mols, 120 g | NC(=O)N | CH4N2O
reactant | water | 2 liters | O | H2O
solvent | ethanol | 1 liter | C(C)O | C2H6O
solvent | ethanol | 1 liter | C(C)O | C2H6O
solvent | ethanol | 3.5 liters | C(C)O | C2H6O
product | 5-methylbarbituric acid | CC1C(NC(NC1=O)=O)=O | C5H6N2O3
